US03957783
A mixture of 17.85 g of 2-amino-3-(o-fluorobenzoyl)-5-methylthiophene, 25.69 g of ethyl carbamate and 1.55 g of zinc chloride is heated at 200°C for 30 minutes. After cooling, the reaction mixture is washed with chloroform, then with water, and filtered to give 4-(o-fluorophenyl)-6-methyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one as crystalline solids. Recrystallization from chloroform-ethanol gives crystals having a melting point of 282° - 284°C.

reactant | 2-amino-3-(o-fluorobenzoyl)-5-methylthiophene | 17.85 g | NC=1SC(=CC1C(C1=C(C=CC=C1)F)=O)C | C12H10FNOS
reactant | ethyl carbamate | 25.69 g | C(N)(OCC)=O | C3H7NO2
catalyst | zinc chloride | 1.55 g | [Cl-].[Zn+2].[Cl-]
product | 4-(o-fluorophenyl)-6-methyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | FC1=C(C=CC=C1)C=1C2=C(NC(N1)=O)SC(=C2)C | C13H9FN2OS
